US04863958
To a solution of 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-dimethylaminomethylbenzofuran (0.2 gm; 0.54mmole) in ethanol (5 mL) was added sodium borohydride (0.2 gm, 5.45mmoles) and the reaction mixture was refluxed for 10 minutes. The reaction mixture was cooled, poured in a saturated solution of ammonium chloride, and extracted with ether. The organic phase was washed with with brine, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel using 20% ethylacetate in hexane as eluent to yield 160 mg (91%) of 2-(p-methoxybenzyl)-3,7-dimethyl-4-hydroxy-5-propylbenzofuran, mp. 102°-104° C.

reactant | 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-5-propyl-7-dimethylaminomethylbenzofuran | 0.54mmole, 0.2 gm | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3CN(C)C)CCC)O)C=C1 | C23H29NO3
reactant | sodium borohydride | 5.45mmoles, 0.2 gm | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(p-methoxybenzyl)-3,7-dimethyl-4-hydroxy-5-propylbenzofuran | 160 mg, 91% | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3C)CCC)O)C=C1 | C21H24O3
